US05866716
An autoclave was charged with 0.1 g of Rh(acac)(CO)2, 20 g of pyridineand 10 g of 1-octene in a mixture of 60 g of propionic acid and 10 g of water as solvent. A pressure of 30 bar was set using CO and the mixture was heated to 100° C. A reaction pressure of 100 bar was then set by injecting CO and was maintained by injection of further amounts (every 15 minutes). After 1 hour, the autoclave was depressurized and the reaction mixture produced was analyzed titrimetrically and by gas chromatography. Nonanoic acid (n/iso 2.6:1) was formed in an STY of 46 g/l/h (Sel.>95%). Nonanal (n/iso) could be detected in traces by gas chromatography. Hydrogenation products such as octane or nonanol were not found.

reactant | 1-octene | 10 g | C=CCCCCCC | C8H16
reactant | propionic acid | 60 g | C(CC)(=O)O | C3H6O2
solvent | water | 10 g | O | H2O
product | Nonanoic acid | C(CCCCCCCC)(=O)O | C9H18O2
